US08791133B2
2 g of 5-nitro-3-pyrazolecarboxylic acid are dissolved in THF (5 ml), then diluted with toluene (40 ml) and heated at reflux. 10.35 g of N,N-dimethylformamide-di-tert-butyl acetal are added dropwise and the mixture is heated under reflux for 8 h. After cooling to RT, the solvent is removed under reduced pressure and the residue is taken up in DCM. It is washed with water and twice with sat. NaHCO3 solution. The organic phase is dried over Na2SO4 and concentrated. The residue is purified by column chromatography (silica gel, MeOH:DCM=1-10:99-90). The 1.26 g of tert-butyl 5-nitro-1H-pyrazole-3-carboxylate thus obtained are dissolved in MeOH (10 ml) and admixed with 88 mg of palladium on carbon (10%). Hydrogenation is effected at hydrogen pressure 4.5 bar for 2 h. The solution is filtered and the solvent is removed under reduced pressure. Yield: 1.08 g; LC/MS (method J): m/z=128 (M−tBu); Rt=0.477 min

reactant | 5-nitro-3-pyrazolecarboxylic acid | 2 g | [N+](=O)([O-])C1=CC(=NN1)C(=O)O | C4H3N3O4
reactant | N,N-dimethylformamide-di-tert-butyl acetal | 10.35 g | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 5-nitro-1H-pyrazole-3-carboxylate | 1.26 g | [N+](=O)([O-])C1=CC(=NN1)C(=O)OC(C)(C)C | C8H11N3O4
